US05015758
Preparation of methyl 3-(1-adamantyl)-4-methoxybenzoate
In a 100 ml three-necked flask, under a nitrogen environment, are placed 2 g of 1-acetoxyadamantane and 20 ml of n-heptane. After total dissolution, 0.5 g of concentrated sulfuric acid is added drop by drop. At a temperature of approximately 20.C, 1.71 g of methyl 4-methoxybenzoate is added slowly and agitated for 48 hours. The solid obtained is filtered with sintered glass and washed with water until neutrality is reached. After drying in a vacuum oven for 24 hours at 25 C, one recovered 2 g of expected raw product (Melting point: 136°-137° C.).

reactant | 1-acetoxyadamantane | 2 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | methyl 4-methoxybenzoate | 1.71 g | COC1=CC=C(C(=O)OC)C=C1 | C9H10O3
solvent | n-heptane | 20 ml | CCCCCCC | C7H16
product | methyl 3-(1-adamantyl)-4-methoxybenzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2OC | C19H24O3
